US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoate
A solution of (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid (Preparation 1) (596 mg, 2.00 mmol) in dichloromethane (8ml) was treated with 1,1′-carbonyldiimidazole (364 mg, 2.25 mol) and the solution was stirred at room temperature for 15 minutes. The N-hydroxyacetamidine (Chem.Ber.; 17; 1884; 2746) (148 mg, 2.00 mmol) was then added and the mixture was stirred for 1 hour. The solvent was removed under reduced pressure and the residue was heated neat under a nitrogen atmosphere for 90 minutes. The crude product was then purified by column chromatography on silica gel eluting with dichloromethane to afford the title compound (385 mg).

reactant | (2R)-2-[2-(tert-butoxy)-2-oxoethyl]-5-cyclohexylpentanoic acid | 2.00 mmol, 596 mg | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1,1′-carbonyldiimidazole | 2.25 mol, 364 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-hydroxyacetamidine | 2.00 mmol, 148 mg | ONC(C)=N | C2H6N2O
solvent | dichloromethane | 8ml | ClCCl | CH2Cl2
product | tert-Butyl (3R)-6-cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoate | 385 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C | C19H32N2O3
